US04925982
Into a suspension of methacrylamide (106 g; 1.25 mol) in dichloroethane (600 ml), dry hydrogen chloride gas was blown while cooling with ice for about 1 hour. Then, oxalyl chloride (243.9 g; 1.92 mol) was dropwise added thereto while continuing hydrogen chloride blowing and ice cooling. The resultant mixture was heated to reflux, and the refluxing was continued for 30 minutes. After being allowed to cool, the reaction mixture was distilled under reduced pressure to give alpha-methyl-beta-chloropropionyl isocyanate.

reactant | methacrylamide | 1.25 mol, 106 g | C(C(=C)C)(=O)N | C4H7NO
reactant | oxalyl chloride | 1.92 mol, 243.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloroethane | 600 ml | ClC(C)Cl | C2H4Cl2
solvent | hydrogen chloride | Cl | ClH
product | alpha-methyl-beta-chloropropionyl isocyanate | CC(C(=O)N=C=O)CCl | C5H6ClNO2
